US07449475B2
Methyl 5-methyl-2-[(2S)-oxiran-2-ylmethoxy]benzoate
A solution of methyl 2-hydroxy-5-methylbenzoate (0.166 g, 1 mmol), (2S)-oxiran-2-ylmethyl 3-nitrobenzenesulfonate (0.26 g, 1 mmol) and caesium carbonate (0.39 g, 1.2 mmol) in dimethylformamide (5 mL) was stirred at room temperature overnight. The mixture was partitioned between water and ethyl acetate, and the organic phase was washed twice with water and once with brine, and finally concentrated. The crude material was purified by flash chromatoghrphy on silica gel (eluent:ethyl acetate/n-heptane), yielding the titled compound (0.16 g, 72%) as colourless oil.

reactant | methyl 2-hydroxy-5-methylbenzoate | 1 mmol, 0.166 g | OC1=C(C(=O)OC)C=C(C=C1)C | C9H10O3
reactant | (2S)-oxiran-2-ylmethyl 3-nitrobenzenesulfonate | 1 mmol, 0.26 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC[C@H]1OC1 | C9H9NO6S
reactant | caesium carbonate | 1.2 mmol, 0.39 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | Methyl 5-methyl-2-[(2S)-oxiran-2-ylmethoxy]benzoate | 0.16 g, 72% | CC=1C=CC(=C(C(=O)OC)C1)OC[C@H]1OC1 | C12H14O4
